US04559341
Analogously to Example C, 7-chloro-1-cyclopropyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid is reacted with piperazine to give 1-cyclopropyl-1,4-dihydro-4-oxo-7-(piperazin-1-yl)-quinoline-3-carboxylic acid which decomposes at 298°-300° C. Preparation Examples for the end products according to the invention:

reactant | 7-chloro-1-cyclopropyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | ClC1=CC=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O | C13H10ClNO3
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-cyclopropyl-1,4-dihydro-4-oxo-7-(piperazin-1-yl)-quinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC=C(C=C12)N1CCNCC1)=O)C(=O)O | C17H19N3O3
